US04272437
trans 1-(t-butyldimethylsilyl)-3-phenylacetyl-4-tritylthio-2-azetidinone
1-t-Butyldimethylsilyl-4-tritylthio-2-azetidinone (18.32 g, 40 mmol) in dry THF (100 ml) was added dropwise under N2 to a cooled (-78° C.) LDA solution [prepared under N2, at -78° C. from dropwise addition of 1.6 M n-BuLi (101.25 ml, 162 mmol) to diisopropyl amine (22.95 ml, 162 mmol) in dry THF (150 ml) and stirred at -78° C. for 30 min]. The mixture was stirred at -78° C. for 30 min and ethyl phenylacetate (15.66 g, 15.12 ml 15.12 ml, 93.6 mmol) in dry THF (50 ml) was added and the reaction mixture was stirred at -78° C. for 2 h. It was poured onto ice-1 N HCl (pH 5-6) and extracted with ether several times. The ether solution was washed with brine and dried (Na2SO4 ). It was evaporated to dryness to give 33.7 g of a crude solid. This was dissolved in ether (10 ml) and triturated with pentane (200 ml). The solid was filtered and washed several times with pentane to give 18.3 g of a white solid (79.6%) mp 141-143. 1Hmr (CDCl3 δ: 7.0-7.6 (20H, m), 4.8 (H, d), 3.7 (H, d), 3.53 (H, s), 3.43 (H, s) 1.5 (9H, s) and 0.3 ppm (6H, s).

reactant | 1-t-Butyldimethylsilyl-4-tritylthio-2-azetidinone | 40 mmol, 18.32 g | [Si](C)(C)(C(C)(C)C)N1C(CC1SC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C28H33NOSSi
reactant | LDA | [Li+].CC(C)[N-]C(C)C
reactant | n-BuLi | 162 mmol, 1.6 M, 101.25 ml | [Li]CCCC
reactant | diisopropyl amine | 162 mmol, 22.95 ml | C(C)(C)NC(C)C | C6H15N
reactant | ethyl phenylacetate | 93.6 mmol, 15.12 ml, 15.66 g | C1(=CC=CC=C1)CC(=O)OCC | C10H12O2
reactant | HCl | pH 5-6 | Cl | ClH
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | THF | 150 ml | C1CCOC1 | C4H8O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | ether | 10 ml | CCOCC | C4H10O
product | trans 1-(t-butyldimethylsilyl)-3-phenylacetyl-4-tritylthio-2-azetidinone | 18.3 g, 79.6% | [Si](C)(C)(C(C)(C)C)N1C([C@H]([C@@H]1SC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C(CC1=CC=CC=C1)=O)=O | C36H39NO2SSi
